US04034092
Substitution of dimethylamine in the procedure of Example 17 in place of ammonia in the reaction with 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol gives 2-(N,N-dimethylcarbamoylmethyl)-1,3,4-oxadiazole-5-thiol.

reactant | dimethylamine | CNC | C2H7N
reactant | ammonia | N | H3N
reactant | 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol | C(=O)(OCC)CC=1OC(=NN1)S | C6H8N2O3S
product | 2-(N,N-dimethylcarbamoylmethyl)-1,3,4-oxadiazole-5-thiol | CN(C(=O)CC=1OC(=NN1)S)C | C6H9N3O2S
